US07906645B2
N-(3,4-Dichlorophenyl)-4{[(3S)-1-(2-thienylacetyl)piperidin-3-yl]methyl}piperazine-1-carboxamide
To a solution of N-(3,4-dichlorophenyl)-4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxamide (150 mg) and triethylamine (0.11 mL) in tetrahydrofuran (5 mL) at room temperature was added 2-thiopheneacetyl chloride under argon at room temperature. The solution was stirred for 30 minutes and then quenched with methanol. The mixture was loaded onto a SCX-2 column and eluted with methanol then 7M NH3 in methanol. The basic fraction was concentrated and the residue purified by silica column chromatography, eluting with a gradient of 0 to 10% methanol in dichloromethane to give the title compound as a yellow oil (150 mg, 75%).

reactant | N-(3,4-dichlorophenyl)-4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxamide | 150 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C[C@H]1CNCCC1 | C17H24Cl2N4O
reactant | triethylamine | 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | 2-thiopheneacetyl chloride | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-(3,4-Dichlorophenyl)-4{[(3S)-1-(2-thienylacetyl)piperidin-3-yl]methyl}piperazine-1-carboxamide | 150 mg, 75% | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C[C@H]1CN(CCC1)C(CC=1SC=CC1)=O | C23H28Cl2N4O2S
